US04621084
6-(3-Methyl-imidazo[1,2-a]pyrimidin-2-yl)-2-methyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine (1.1 g) was prepared in substantially the same manner as that of Example 16 from 6-(2-bromopropionyl)-2-methyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine (3.0 g) and 2-aminopyrimidine (2.9 g). mp. 288°-290° C. (dec.).

reactant | 6-(2-bromopropionyl)-2-methyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine | 3.0 g | BrC(C(=O)C=1C=CC2=C(NC(C(O2)C)=O)C1)C | C12H12BrNO3
reactant | 2-aminopyrimidine | 2.9 g | NC1=NC=CC=N1 | C4H5N3
product | 6-(3-Methyl-imidazo[1,2-a]pyrimidin-2-yl)-2-methyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine | 1.1 g | CC1=C(N=C2N1C=CC=N2)C=2C=CC1=C(NC(C(O1)C)=O)C2 | C16H14N4O2
